US07504412B2
2-Tertiary butyl-6-nitroimidazo[1,2-a]pyridine
Operations similar to Production Example 1-(2) were conducted using 1-bromopinacolone and 2-amino-5-nitropyridine. The solid whereupon obtained was suspended in ethyl acetate, and washed with saturated aqueous sodium hydrogencarbonate solution to provide the title compound as yellow solid.

reactant | 1-bromopinacolone | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | 2-amino-5-nitropyridine | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Tertiary butyl-6-nitroimidazo[1,2-a]pyridine | C(C)(C)(C)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1 | C11H13N3O2
